US04734419
To a suspension of 3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline (1 g) in N,N-dimethylformamide (15 ml) was added sodium hydride (60% in mineral oil, 0.17 g) with stirring at 0° C. and the mixture was stirred for 15 minutes at the same temperature. To this mixture was added ethyl bromoacetate (0.45 ml) and the mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried and evaporated to give a residue. Thus obtained product was purified by recrystallization from isopropyl ether to give ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate (1.21 g).

reactant | 3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline | 1 g | ClC=1C=C(CN2C(NC3=CC=CC=C3C2=O)=O)C=CC1Cl | C15H10Cl2N2O2
reactant | sodium hydride | 0.17 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.45 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate | 1.21 g | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=O)CC(=O)OCC)=O)C=CC1Cl | C19H16Cl2N2O4
